US08044062B2
Triethylamine (7.60 mL, 54.5 mmol) was added to a suspension of N4-benzyl-5-iodo-6-methylpyrimidine-2,4-diamine (3.14 g, 10.9 mmol), ethyl acrylate (3.55 mL, 32.7 mmol) and Pd(PPh3)4 (629 mg, 0.545 mmol) in anhydrous DMF (20 mL). The reaction was heated to 95° C. under nitrogen. After 24 h, the reaction was allowed to cool to room temperature and concentrated in vacuo. The residue was poured into a 10% solution of LiCl and washed with ethyl acetate (100 mL). The organic phase was separated and washed with brine, separated and dried over Na2SO4. The filtrate was concentrated in vacuo and purified on SiO2 (3:2 methylene chloride:ethyl acetate) to afford (E)-ethyl-3-(2-amino-4-(benzylamino)-6-methylpyrimidin-5-yl)acrylate (0.954 g, 28% yield) as a light yellow solid.

reactant | Triethylamine | 54.5 mmol, 7.60 mL | C(C)N(CC)CC | C6H15N
reactant | N4-benzyl-5-iodo-6-methylpyrimidine-2,4-diamine | 10.9 mmol, 3.14 g | C(C1=CC=CC=C1)NC1=NC(=NC(=C1I)C)N | C12H13IN4
reactant | ethyl acrylate | 32.7 mmol, 3.55 mL | C(C=C)(=O)OCC | C5H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.545 mmol, 629 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-ethyl-3-(2-amino-4-(benzylamino)-6-methylpyrimidin-5-yl)acrylate | 0.954 g, 28% yield | C(C)OC(\C=C\C=1C(=NC(=NC1C)N)NCC1=CC=CC=C1)=O | C17H20N4O2
